US05231101
Thionyl chloride (15 ml) was added to 2.7 g of 8-cyano-6,11-dihydro-11-(1-methyl-4-piperidyl)-5H-benzo[ 5,6]cyclohepta[1,2-b]pyridin-11-ol, followed by reflux for 8 hours. The reaction mixture was concentrated under reduced pressure. An aqueous solution of sodium hydroxide was added to the residue to render the latter basic, followed by extraction with chloroform. The extract was dried over anhydrous Na2SO4 and filtered and the filtrate was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column and, from relevant fractions eluted with chloroform:methanol (50:1), 1.6 g of 8-cyano-11-(1-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine were obtained (yield: 63%).

reactant | Thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 8-cyano-6,11-dihydro-11-(1-methyl-4-piperidyl)-5H-benzo[ 5,6]cyclohepta[1,2-b]pyridin-11-ol | 2.7 g | C(#N)C=1C=CC2=C(CCC=3C(=NC=CC3)C2(O)C2CCN(CC2)C)C1 | C21H23N3O
product | 8-cyano-11-(1-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 1.6 g, yield: 63% | C(#N)C=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C)C1 | C21H21N3
